US08710043B2
To a 500 mL round bottom flask containing methyl 6-chloronicotinate (4.50 g, 26.2 mmol) was added MeCN (100 mL). The resulting mixture was then stirred at 0° C. for 10 min. At this time, urea hydrogen peroxide (4.93 g, 52.5 mmol) solid was added before the dropwise addition of trifluoroacetic anhydride (7.41 mL, 52.5 mmol). The reaction was stirred for 30 min and then the ice bath was removed. The reaction was then stirred for 3 h and then the bulk of MeCN was removed by rotary evaporation. The residue was dissolved in EtOAc (150 mL) and washed with sodium thiosulfate (aqueous, 0.5 M, 2×100 mL), water (100 mL), brine (100 mL), dried with sodium sulfate and concentrated to a tan solid. The solid thus obtained was dissolved in DCM (150 mL) and MeOH (30 mL). The solid residue was removed by filtration, and the filtrate was concentrated affording 2-chloro-5-(methoxycarbonyl)pyridine 1-oxide as a tan solid.

reactant | methyl 6-chloronicotinate | 26.2 mmol, 4.50 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | MeCN | 100 mL | CC#N | C2H3N
reactant | urea hydrogen peroxide | 52.5 mmol, 4.93 g | OO.NC(=O)N
reactant | trifluoroacetic anhydride | 52.5 mmol, 7.41 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 30 mL | CO | CH4O
product | 2-chloro-5-(methoxycarbonyl)pyridine 1-oxide | ClC1=[N+](C=C(C=C1)C(=O)OC)[O-] | C7H6ClNO3
